US07982071B2
Aldol condensation with acetonitrile and 3-(cyclopentylmethoxy)benzaldehyde gave 3-(3-(cyclopentylmethoxy)phenyl)-3-hydroxypropanenitrile as a colorless oil. Yield (0.4 g, 38%): 1H NMR (400 MHz, CDCl3) δ 7.22-7.28 (m, 1H), 6.88-6.94 (m, 2H), 6.82-6.88 (m, 1H), 4.95 (t, J=6.4 Hz, 1H), 3.81 (d, J=6.4 Hz, 2H), 2.83 (brs, 1H), 2.71 (d, J=6.4 Hz, 2H), 2.33 (dddd, J=7.2 Hz, 1H), 1.76-1.88 (m, 2H), 1.50-1.68 (m, 4H), 1.28-1.40 (m, 2H).

reactant | 3-(cyclopentylmethoxy)benzaldehyde | C1(CCCC1)COC=1C=C(C=O)C=CC1 | C13H16O2
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-(3-(cyclopentylmethoxy)phenyl)-3-hydroxypropanenitrile | C1(CCCC1)COC=1C=C(C=CC1)C(CC#N)O | C15H19NO2
